.inc CoilcraftTemplates.lib

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1508-5N5
* Inductance = 5.5nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-6GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1508-5N5_freq port1 port2 PARAMS: Cpar=0.125pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=90
+ R2=0.063
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=131
+ L_EL=9.75
+ L_F0=647E6
+ PkZ=0
.ends 1508-5N5_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1508-9N0
* Inductance = 9nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-4GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1508-9N0_freq port1 port2 PARAMS: Cpar=0.125pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=40
+ R2=0.115
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=168
+ L_EL=5.63
+ L_F0=283.5E6
+ PkZ=0
.ends 1508-9N0_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1508-13N
* Inductance = 13nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-3GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1508-13N_freq port1 port2 PARAMS: Cpar=0.114pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=33
+ R2=0.16
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=185
+ L_EL=21.5
+ L_F0=855E6
+ PkZ=0
.ends 1508-13N_freq

