.inc CoilcraftTemplates.lib

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1606-6
* Inductance = #VALUE!
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1GHz-11GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1606-6_freq port1 port2 PARAMS: Cpar=0.0589pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=10.71
+ R2=0.217
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=162.9
+ L_EL=57.83
+ L_F0=4760E6
+ PkZ=0
.ends 1606-6_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1606-7
* Inductance = #VALUE!
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1GHz-9.5GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1606-7_freq port1 port2 PARAMS: Cpar=0.083pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=1.026
+ R2=0.2852
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=160.5
+ L_EL=68.22
+ L_F0=4349E6
+ PkZ=0
.ends 1606-7_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1606-8
* Inductance = #VALUE!
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1GHz-9GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1606-8_freq port1 port2 PARAMS: Cpar=0.0526pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=2.568
+ R2=0.3529
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=196.8
+ L_EL=70.07
+ L_F0=4451E6
+ PkZ=0
.ends 1606-8_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1606-9
* Inductance = #VALUE!
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1GHz-7.5GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1606-9_freq port1 port2 PARAMS: Cpar=0.0758pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=3.278
+ R2=0.3681
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=189.3
+ L_EL=84.3
+ L_F0=4686E6
+ PkZ=0
.ends 1606-9_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1606-10
* Inductance = -1nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1GHz-6.5GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1606-10_freq port1 port2 PARAMS: Cpar=0.0791pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=5.453
+ R2=0.4695
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=212.3
+ L_EL=100.3
+ L_F0=4956E6
+ PkZ=0
.ends 1606-10_freq

