.inc CoilcraftTemplates.lib

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0201AF-330
* Inductance = 33nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0201AF-330_freq port1 port2 PARAMS: Cpar=0.168pF Ind=0.033uH
X1 port1 port2 Model1A PARAMS:
+ R1=408
+ R2=0.15
+ C= {Cpar}
+ K1=0.000000001
+ K2=0.0014
+ K3= {Ind}
+ K4=0.00152
+ K5=0.000000135
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=63.84767055
.ends 0201AF-330_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0201AF-330
* Inductance = 33nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 0201AF-330_imp port1 port2 PARAMS: Cpar=0.124pF Ind=0.033uH
X1 port1 port2 Model1D PARAMS:
+ R1=408
+ R2=0.15
+ C= {Cpar}
+ K1=0.000000001
+ K2=0.0014
+ K3= {Ind}
+ K4=0.00152
+ K5=0.000000135
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=63.84767055
.ends 0201AF-330_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0201AF-510
* Inductance = 51nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0201AF-510_freq port1 port2 PARAMS: Cpar=0.054pF Ind=0.051uH
X1 port1 port2 Model1A PARAMS:
+ R1=558
+ R2=0.25
+ C= {Cpar}
+ K1=1.1E-09
+ K2=0.0178
+ K3= {Ind}
+ K4=0.002
+ K5=0.000000121
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=651.268654
.ends 0201AF-510_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0201AF-510
* Inductance = 51nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 0201AF-510_imp port1 port2 PARAMS: Cpar=0.041pF Ind=0.051uH
X1 port1 port2 Model1D PARAMS:
+ R1=558
+ R2=0.25
+ C= {Cpar}
+ K1=1.1E-09
+ K2=0.0178
+ K3= {Ind}
+ K4=0.002
+ K5=0.000000121
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=651.268654
.ends 0201AF-510_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0201AF-680
* Inductance = 68nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0201AF-680_freq port1 port2 PARAMS: Cpar=0.066pF Ind=0.068uH
X1 port1 port2 Model1A PARAMS:
+ R1=526
+ R2=0.33
+ C= {Cpar}
+ K1=1.04E-09
+ K2=0.0221
+ K3= {Ind}
+ K4=0.00211
+ K5=0.000000119
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=725.7950559
.ends 0201AF-680_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0201AF-680
* Inductance = 68nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 0201AF-680_imp port1 port2 PARAMS: Cpar=0.054pF Ind=0.068uH
X1 port1 port2 Model1D PARAMS:
+ R1=526
+ R2=0.33
+ C= {Cpar}
+ K1=1.04E-09
+ K2=0.0221
+ K3= {Ind}
+ K4=0.00211
+ K5=0.000000119
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=725.7950559
.ends 0201AF-680_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0201AF-910
* Inductance = 91nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0201AF-910_freq port1 port2 PARAMS: Cpar=0.057pF Ind=0.091uH
X1 port1 port2 Model1A PARAMS:
+ R1=596
+ R2=0.37
+ C= {Cpar}
+ K1=1.12E-09
+ K2=0.0404
+ K3= {Ind}
+ K4=0.00283
+ K5=0.000000089
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1141.963494
.ends 0201AF-910_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0201AF-910
* Inductance = 91nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 0201AF-910_imp port1 port2 PARAMS: Cpar=0.048pF Ind=0.091uH
X1 port1 port2 Model1D PARAMS:
+ R1=596
+ R2=0.37
+ C= {Cpar}
+ K1=1.12E-09
+ K2=0.0404
+ K3= {Ind}
+ K4=0.00283
+ K5=0.000000089
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1141.963494
.ends 0201AF-910_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0201AF-111
* Inductance = 110nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0201AF-111_freq port1 port2 PARAMS: Cpar=0.055pF Ind=0.11uH
X1 port1 port2 Model1A PARAMS:
+ R1=636
+ R2=0.05
+ C= {Cpar}
+ K1=1.06E-09
+ K2=0.047
+ K3= {Ind}
+ K4=0.00351
+ K5=0.000000081
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1296.664348
.ends 0201AF-111_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0201AF-111
* Inductance = 110nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 0201AF-111_imp port1 port2 PARAMS: Cpar=0.046pF Ind=0.11uH
X1 port1 port2 Model1D PARAMS:
+ R1=636
+ R2=0.05
+ C= {Cpar}
+ K1=1.06E-09
+ K2=0.047
+ K3= {Ind}
+ K4=0.00351
+ K5=0.000000081
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1296.664348
.ends 0201AF-111_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0201AF-141
* Inductance = 140nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0201AF-141_freq port1 port2 PARAMS: Cpar=0.041pF Ind=0.14uH
X1 port1 port2 Model1A PARAMS:
+ R1=663
+ R2=0.65
+ C= {Cpar}
+ K1=1.17E-09
+ K2=0.0498
+ K3= {Ind}
+ K4=0.00351
+ K5=0.000000081
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1608.151409
.ends 0201AF-141_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0201AF-141
* Inductance = 140nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 0201AF-141_imp port1 port2 PARAMS: Cpar=0.036pF Ind=0.14uH
X1 port1 port2 Model1D PARAMS:
+ R1=663
+ R2=0.65
+ C= {Cpar}
+ K1=1.17E-09
+ K2=0.0498
+ K3= {Ind}
+ K4=0.00351
+ K5=0.000000081
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1608.151409
.ends 0201AF-141_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0201AF-171
* Inductance = 170nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0201AF-171_freq port1 port2 PARAMS: Cpar=0.032pF Ind=0.17uH
X1 port1 port2 Model1A PARAMS:
+ R1=726
+ R2=0.86
+ C= {Cpar}
+ K1=1.17E-09
+ K2=0.0631
+ K3= {Ind}
+ K4=0.00351
+ K5=0.000000081
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=2121.054545
.ends 0201AF-171_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0201AF-171
* Inductance = 170nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 0201AF-171_imp port1 port2 PARAMS: Cpar=0.029pF Ind=0.17uH
X1 port1 port2 Model1D PARAMS:
+ R1=726
+ R2=0.86
+ C= {Cpar}
+ K1=1.17E-09
+ K2=0.0631
+ K3= {Ind}
+ K4=0.00351
+ K5=0.000000081
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=2121.054545
.ends 0201AF-171_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0201AF-201
* Inductance = 200nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0201AF-201_freq port1 port2 PARAMS: Cpar=0.034pF Ind=0.21uH
X1 port1 port2 Model1A PARAMS:
+ R1=736
+ R2=1.25
+ C= {Cpar}
+ K1=9.1E-10
+ K2=0.112
+ K3= {Ind}
+ K4=0.00391
+ K5=0.000000081
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=3098.976399
.ends 0201AF-201_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0201AF-201
* Inductance = 200nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 0201AF-201_imp port1 port2 PARAMS: Cpar=0.031pF Ind=0.21uH
X1 port1 port2 Model1D PARAMS:
+ R1=736
+ R2=1.25
+ C= {Cpar}
+ K1=9.1E-10
+ K2=0.112
+ K3= {Ind}
+ K4=0.00391
+ K5=0.000000081
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=3098.976399
.ends 0201AF-201_imp

